US08119805B2
Stage (iv): tert-Butyl 3-(2-(4-(2-(pyrrolidin-1-yl)ethyl)piperidin-1-ylsulfonyl)ethyl)piperidine-1-carboxylate
tert-Butyl 3-(2-(perfluorophenoxysulfonyl)ethyl)piperidine-1-carboxylate (0.5 g, 1.09 mmol) and 4-(2-pyrrolidinoethyl)piperidine (0.4 g, 2.18 mmol) were dissolved in tetrahydrofuran (10 ml), 1,8-diazabicyclo[5.4.0]undec-7-ene (0.5 ml, 3.27 mmol) was added under an inert gas and the mixture was refluxed for 2 h. Ethyl acetate and saturated sodium bicarbonate solution (20 ml of each) were added, the phases were separated and the aqueous phase was extracted with ethyl acetate (2×30 ml). The combined organic phases were washed with saturated sodium chloride solution (20 ml), dried over sodium sulfate and concentrated in vacuo. The crude product was purified by column chromatography (silica gel) with ethyl acetate/methanol/ammonia (25% aq) (300:100:1). Yield: 0.32 g (64%)

reactant | tert-Butyl 3-(2-(perfluorophenoxysulfonyl)ethyl)piperidine-1-carboxylate | 1.09 mmol, 0.5 g | FC1=C(OS(=O)(=O)CCC2CN(CCC2)C(=O)OC(C)(C)C)C(=C(C(=C1F)F)F)F | C18H22F5NO5S
reactant | 4-(2-pyrrolidinoethyl)piperidine | 2.18 mmol, 0.4 g | N1(CCCC1)CCC1CCNCC1 | C11H22N2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 3.27 mmol, 0.5 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 3-(2-(4-(2-(pyrrolidin-1-yl)ethyl)piperidin-1-ylsulfonyl)ethyl)piperidine-1-carboxylate | N1(CCCC1)CCC1CCN(CC1)S(=O)(=O)CCC1CN(CCC1)C(=O)OC(C)(C)C | C23H43N3O4S
